Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
lower extremitie swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
patient is a poor historian who presents to ED c/o of lower 
extremites swelling. He denies any other past medical history 
although per OMR he had bladder cancer ___, and positive stress 
in ___ and nl ECHO ___. He endosrses bilateral lower extremie 
edema since couple days, with progressive worsening difficulty 
urinating. He endorses decreased appetite and unintentional 
weigh loss, some increased thurst and denies any CP, SOB, 
abdominal pain.

In the ED: he had bilateral lower extremitie US which was 
negative for DVT. UA signif for RBC/WBC VSS and afebrile
 
Past Medical History:
- biopsy proven bladder ca ___ transitional cell 
carcinoma, grade I-II)
- lower extremity edema ( chronic diastolic CHF last ECHO ___ 
nl EF)
- Anemia
- CKD - baseline Creatinine 2 
- AFib  - not on coumadin, rate controlled
- Gout

 
Social History:
___
Family History:
.
 
Physical Exam:
GEN:The patient is in no distress and appears comfortable mildly 
depressed appearing, cachectic 
SKIN:petechial nonblanching rash in lower extremities and some 
on trunk
HEENT: JVP flat, neck supple . poor dentition and bite like 
lesions on tongue.No lymphadenopathy in cervical, posterior, or 
supraclavicular chains noted.
CHEST:Lungs are clear without wheeze, rales, or rhonchi.
CARDIAC: Regular rhythm; ___ SEM RUSB, no rubs, or gallops.
ABDOMEN: Non-distended, and soft withouttenderness or guarding.
EXTREMITIES:3+ edeam r>L, warm without cyanosis, no clubbing.
NEUROLOGIC: Alert and orientet x3
 
Pertinent Results:
___ 06:45AM 
White Blood Cells 5.5 K/uL 4.0 - 11.0 
Red Blood Cells 2.92* m/uL 4.6 - 6.2 
Hemoglobin 9.1* g/dL 14.0 - 18.0  
Hematocrit 26.0* % 40 - 52  
MCV 89 fL 82 - 98  
MCH 31.2 pg 27 - 32  
MCHC 34.9 % 31 - 35 
RDW 14.6 % 10.5 - 15.5 
BASIC COAGULATION ___, PTT, PLT, INR) 
Platelet Count 401 K/uL 150 - 440 
.
___ 06:45AM 
Glucose 100 mg/dL 70 - 105 
Urea Nitrogen 41* mg/dL 6 - 20 
Creatinine 1.8* mg/dL 0.5 - 1.2  
Sodium 128* mEq/L 133 - 145 
Potassium 4.5 mEq/L 3.3 - 5.1  
Chloride 95* mEq/L 96 - 108 
Bicarbonate 27 mEq/L 22 - 32  
Anion Gap 11 mEq/L 8 - 20 
Calcium, Total 7.9* mg/dL 8.4 - 10.2 
Phosphate 3.1 mg/dL 2.7 - 4.5 
Magnesium 2.1 mg/dL 1.6 - 2.___ yo male with hx of diastolic CHF, lower extremity edema, 
bladder ca who 
presented with lower extremity edema, difficulty urinating and 
weight loss. 

HOSPITAL COURSE BY PROBLEM

EDEMA: Pt had similar episodes in the past due to medication 
noncompliance for CHF 
treatment. While it is likely that current symptoms are related 
to diastolic dysfunction and volume overload, pt otherwise lacks 
other signs and symptoms of volume overload. Significant 
contribution could be from venous stasis. We resumed his past 
out patient diuretic and fluid restriction during initial 
hospital stay, but dicontinued diuretic soon as pt appeared 
euvolemic to dry. 

URINARY RE TENSION: could be due to BPH, however more concerning 
is bladder ca vs prostate ca given age and constitutional 
symptoms. Also concerning was his UA which was positive for WBC 
and RBC without bacterial growth. We placed Foley, and pt put 
out 1.2 L of retained urine. Renal ultrasound was normal and 
negative for hydronephrosis. Urine cytology was sent (results 
pending), and we started Tamsulosin and Finasteride base on 
urology consult recommendation. He will need outpatient Urology 
follow up for further evaluation in the setting of a history of 
bladder ca Grade II in ___

HYPONATREMIA: could be due to CHF or very poor nutritional 
intake or post obstructive renal failure. He was fluid 
restricted. UA was not consistent with SIDH. Sodium improved 
some what and remained stable

DEPRESSION: Social work was consulted and we initiated treatment 
with Paxil 20 mg.

 
Medications on Admission:
none
 
Discharge Medications:
1. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
2. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
3. Paroxetine HCl 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Torsemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. chronic diastolic CHF
2. Renal failure
3. Urinary retention
4. Depression

 
Discharge Condition:
Good
 
Discharge Instructions:
You were admitted for lower extremity swelling. You also had 
urinary retention. We placed a foley catheder and you were 
treated with diuretics. 
.
You have to follow up with outpatient urology and continue 
taking your medication as prescribed.
.
Please call your doctor or come to ___ department if you 
have shortness of breath, difficulty urinating, worsening leg 
swelling or any other health concern
 
Followup Instructions:
___